US07307086B2
4-Hydroxy-4-(1,3-oxazol-2-yl)cyclohexanone
To a solution of 1,3-oxazole (2.0 mL, 30.41 mmol) in THF (20 mL) was added 1.0 M solution of borane in THF (30.4 mL) at room temperature. The mixture was stirred for 1 hour before being cooled down to −78° C. To the above solution was added a 1.6 M solution of n-butyllithium in hexane (19 mL). After stirring at −78° C. for one hour, a solution of 1,4-dioxa-spiro[4.5]decan-8-one (5.22 g, 33.45 mmol) in THF (10 mL) was added. After being stirred at −78° C. for 5 hours, the reaction was quenched by addition of a 3 M solution of HCl in water (40 mL). The resulting solution was stirred at room temperature overnight, neutralized with potassium carbonate and extracted with EtOAc three times. The combined extracts were dried over MgSO4 and concentrated. Purification by flash chromatography on silica eluting with EtOAc afforded the desired product (3.9 g, 70%). LC-MS calculated for C9H11NO3: (M+H)+182; found 182.0.

reactant | 1,3-oxazole | 30.41 mmol, 2.0 mL | O1C=NC=C1 | C3H3NO
reactant | borane | B | BH3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 33.45 mmol, 5.22 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30.4 mL | C1CCOC1 | C4H8O
solvent | hexane | 19 mL | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-(1,3-oxazol-2-yl)cyclohexanone | 3.9 g, 70% | OC1(CCC(CC1)=O)C=1OC=CN1 | C9H11NO3
